US07667041B2
Synthesis of 4-fluoro-3-methoxyacetophenone
A solution of dimethyl sulfoxide (1.33 mL) in dichloromethane (5 mL) was added dropwise to a solution of oxalyl chloride (1.63 mL) in dichloromethane (80 mL) in a nitrogen atmosphere at −78° C. After stirring the reaction solution at −78° C. for 3 minutes, a solution of 1-(4-fluoro-3-methoxyphenyl)ethanol (2.6 g) in dichloromethane (15 mL) was added dropwises to the reaction solution. Further, the reaction solution was stirred at −78° C. for 20 minutes, and triethylamine (10.8 mL) was added dropwise to the reaction solution. Then, the reaction solution was stirred at −78° C. for 10 minutes, and further stirred at room temperature for 30 minutes. Water and dichloromethane were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:heptane-ethyl acetate system) to obtain 2.54 g of the title compound. The physical properties of the compound are as follows.

reactant | dimethyl sulfoxide | 1.33 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.63 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-fluoro-3-methoxyphenyl)ethanol | 2.6 g | FC1=C(C=C(C=C1)C(C)O)OC | C9H11FO2
reactant | triethylamine | 10.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 4-fluoro-3-methoxyacetophenone | 2.54 g | CC(=O)C1=CC(=C(C=C1)F)OC | C9H9FO2
